### PR TITLE
feat (Fujisaki): units_cocompact modulo sorries

### PR DESCRIPTION
**Pull request by WilliamCoram**
New WIP PR that is tidied.

### CODE REVIEW

**Comment by WilliamCoram** [comment]
Made it ready for review - there are two (main) remaining sorries: the continuity of ``(Algebra.TensorProduct.prodRight K K D (NumberField.InfiniteAdeleRing K) (FiniteAdeleRing (𝓞 K) K))``, which you sent me a detailed description of how to do; and the statement ``∃ y, ringHaarChar ((iso₁ K D).symm (y,1)) = r``, which I think I have a method of how to do... but it is taking a long time to work out how to formalise it.

There is already a lot of work done though, so I thought opening it for review now may be a good idea.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -253,7 +256,17 @@ instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
 instance : NonAssocSemiring (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
   Algebra.TensorProduct.instRing.toNonAssocSemiring
 
-variable [Algebra.IsCentral K D]
+-- Instance to help speed up instance synthesis
+local instance : NonUnitalNonAssocRing (D ⊗[K] NumberField.InfiniteAdeleRing K) :=
+  let r := Algebra.TensorProduct.instRing.toNonUnitalRing
+  r.toNonUnitalNonAssocRing
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Why not just `Algebra.TensorProduct.instRing.toNonUnitalRing.toNonUnitalNonAssocRing`? Does this not work?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+  (MulEquiv.prodUnits)
+
+lemma iso₁_cont_extracted : Continuous (Algebra.TensorProduct.prodRight K K D
+    (NumberField.InfiniteAdeleRing K) (FiniteAdeleRing (𝓞 K) K)) := by
+  -- Kevin has an outline of the proof of the continuity of this (see Zulip messages).
+  sorry
+
+lemma iso₁_continuous : Continuous (iso₁ K D) := by
+  rw [iso₁, MulEquiv.coe_trans]
+  apply Continuous.comp ?_ ?_
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:453]: Can you not use tools like `fun_prop` to do this? If not then why not? Maybe something needs fixing.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+    · apply Continuous.units_map
+      exact continuous_fst
+    · apply Continuous.units_map
+      exact continuous_snd
+  · apply Continuous.units_map
+    simp only [MulEquiv.toMonoidHom_eq_coe, MonoidHom.coe_coe, MulEquiv.coe_mk,
+      AlgEquiv.toEquiv_eq_coe, EquivLike.coe_coe]
+    exact iso₁_cont_extracted K D
+
+/-- The restriction of ringHaarChar_ker D_𝔸 to Dfx K D. -/
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:464]: This is an unhelpful docstring. Why not use mathematical notation to explain what's going on rather than just copying the gobble-de-gook notation we're using?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 4]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+abbrev rest₁ : ringHaarChar_ker D_𝔸 → Dfx K D :=
+  fun a => (iso₁ K D) a.val |>.2
+
+lemma rest₁_continuous : Continuous (rest₁ K D) := by
+  exact Continuous.comp continuous_snd (Continuous.comp
+    (iso₁_continuous K D) continuous_subtype_val)
+
+local instance : MeasurableSpace (D ⊗[K] NumberField.InfiniteAdeleRing K ×
+    D ⊗[K] FiniteAdeleRing (𝓞 K) K) := by
+  exact borel (D ⊗[K] NumberField.InfiniteAdeleRing K × D ⊗[K] FiniteAdeleRing (𝓞 K) K)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: `by exact` should never (well, hardly ever) be needed. They cancel each other out.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+
+local instance : BorelSpace (D ⊗[K] NumberField.InfiniteAdeleRing K ×
+    D ⊗[K] FiniteAdeleRing (𝓞 K) K) := by
+  exact { measurable_eq := rfl }
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Same here.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 6]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+
+def foo : D ⊗[K] NumberField.AdeleRing (𝓞 K) K ≃ₜ+
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Needs a better name, just write down what the map is, following the naming convention, and you'll get something which will do.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 7]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+    ringHaarChar ((iso₁ K D).symm (y, 1)) =
+    ringHaarChar (MulEquiv.prodUnits.symm (y, (1 : Dfx K D))) := by
+  unfold iso₁
+  apply MeasureTheory.addEquivAddHaarChar_eq_addEquivAddHaarChar_of_continuousAddEquiv (foo K D)
+  · intro x
+    simp_rw [foo]
+
+    sorry
+
+local instance : MeasurableSpace (D ⊗[K] NumberField.InfiniteAdeleRing K) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: You know we have the `borelise` tactic? Can this help you here?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 8]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+local instance : BorelSpace (D ⊗[K] NumberField.InfiniteAdeleRing K) := by
+  exact { measurable_eq := rfl }
+
+local instance : MeasurableSpace (D ⊗[K] FiniteAdeleRing (𝓞 K) K) := by
+  exact borel (D ⊗[K] FiniteAdeleRing (𝓞 K) K)
+
+local instance : BorelSpace (D ⊗[K] FiniteAdeleRing (𝓞 K) K) := by
+  exact { measurable_eq := rfl }
+
+lemma Step1 (r : ℝ) (hr : r > 0) (d : ℕ) : ∃ m : ℝˣ, ringHaarChar m = r^(1/d) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Looking at this code and I'm guessing `1/d = 0` for d > 1 because you didn't coerce. Am I wrong?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 9]
```diff
@@ -262,10 +275,225 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+    have := MeasureTheory.ringHaarChar_pi (ι := Fin d) (A := fun _ : Fin d => ℝ) (fun (i : Fin d) ↦ m')
+    simp only [Finset.prod_const, Finset.card_univ, Fintype.card_fin]
+    simp only [Finset.prod_const, Finset.card_univ, Fintype.card_fin] at this
+    exact this -- why :((
+  -- this seems to work I just need to work out how to solve the problem of measureable spaces not being aligned
+  sorry
+
+local instance : Module ℚ D := by
+
+  sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:543]: You can't sorry data like this, it will break everything.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 1 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Not sure why I didn't do that.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 3 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:464]: Makes sense, I will change this.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 2 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:453]: I do not know what fun_prop does (never had to use it before), so I will have a look into this

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I think this was me just being lazy - e.g. starting with a by, and seeing if exact? closes it. This would've been changed when the PR was sorry free

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 7 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I did not know, I will play around with using this

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 9 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:543]: I wanted to ask about this sorry, this should be obvious... K is a Q module, and D is a K module. Clearly, Lean is worried of a diamond so instantly doesn't infer it, so should I be proving this myself, or is there a way around this?

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 8 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Ahh, thank you. I forget things like this
